US08735411B2
2-(3-Ethoxycarbonyl-propylsulfanyl)-benzoic acid methyl ester
A mixture of methyl thiosalicylate (3.25 g, 19.3 mmol), ethyl 4-bromobutyrate (5.7 g, 29 mmol) and potassium carbonate (5.4 g, 39 mmol) in acetone (40 mL) was heated at reflux for 1 hour, cooled and filtered to remove the solids. The solids were washed with acetone and the combined filtrates were concentrated under reduced pressure and chromatographed on silica gel eluting with a gradient of hexane:EtOAc (20:1, 10:1, 5:1 and 2:1) to provide the title compound. 1H NMR (CDCl3) δ 1.26 (t, J=7.12 Hz, 3H), 2.05 (m, 2H), 2.51 (t, J=7.29 Hz, 2H), 2.99 (t, J=7.29 Hz, 2H), 3.91 (s, 3H), 4.14 (q, J=7.12 Hz, 2H), 7.11-7.21 (m, 1H), 7.35 (m, 1H), 7.45 (m, 1H), 7.95 (dd, J=7.80, 1.70 Hz, 1H); MS (M+NH4)+ m/z 300.

reactant | methyl thiosalicylate | 19.3 mmol, 3.25 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | ethyl 4-bromobutyrate | 29 mmol, 5.7 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 39 mmol, 5.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 2-(3-Ethoxycarbonyl-propylsulfanyl)-benzoic acid methyl ester | COC(C1=C(C=CC=C1)SCCCC(=O)OCC)=O | C14H18O4S
